US07919498B2
To a solution of 2-amino-6-chloro-N-(2-methoxyphenyl)benzamide (4.0813 g, 14.75 mmol) in AcOH (39 mL) was added dropwise chloroacetyl chloride (3.6 mL, 45.2 mmol, 3 eq), and then the mixture was stirred at 110° C. for 3 h. The mixture was cooled to rt and concentrated under reduce pressure. The residue was dissolved in H2O and neutralized with K2CO3. The oily product was extracted with CH2Cl2 (3 times). The combined organic layers were dried with K2CO3, filtered, and concentrated under reduced pressure. The residue was purified by column chromatography on a 120 g of Redi-Sep™ column using 0 to 100% gradient of EtOAc in hexane over 20 min as eluent to provide 5-chloro-2-(chloromethyl)-3-(2-methoxyphenyl)quinazolin-4(3H)-one as off-white solid. 1H NMR (DMSO-d6) δ ppm 7.83 (1 H, t, J=7.9 Hz), 7.69-7.74 (1 H, m), 7.64 (1 H, dd, J=7.9, 0.9 Hz), 7.51-7.58 (1 H, m), 7.47 (1 H, dd, J=7.7, 1.6 Hz), 7.26 (1 H, d, J=8.3 Hz), 7.09-7.17 (1 H, m), 4.28 (2 H, dd, J=51.8, 12.5 Hz), 3.77 (3 H, s). Mass Spectrum (ESI) m/e=335.0 and 337.0 (M+1).

reactant | 2-amino-6-chloro-N-(2-methoxyphenyl)benzamide | 14.75 mmol, 4.0813 g | NC1=C(C(=O)NC2=C(C=CC=C2)OC)C(=CC=C1)Cl | C14H13ClN2O2
reactant | chloroacetyl chloride | 45.2 mmol, 3.6 mL, 3 eq | ClCC(=O)Cl | C2H2Cl2O
solvent | AcOH | 39 mL | CC(=O)O | C2H4O2
product | 5-chloro-2-(chloromethyl)-3-(2-methoxyphenyl)quinazolin-4(3H)-one | ClC1=C2C(N(C(=NC2=CC=C1)CCl)C1=C(C=CC=C1)OC)=O | C16H12Cl2N2O2
